US06395750B1
N-(4-phenyl-phenyl)-N-methyl-5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide
To an ice-cold solution of 5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxylic acid (1.6 g, 6.5 mmol), triethylamine (3 ml, 22.7 mmol), N-metyl-4-aminodiphenyl (1.3 g, 7 mmol) in methylene chloride (25 ml) was added dropwise during 10 minutes a solution of thionyl chloride (1.0 g, 8.4 mmol) in methylene chloride (10 ml). Stirring was continued at 4° C. for 4 hours. The solution was diluted with methylene chloride (10 ml), washed with cold 1 M sulphuric acid and then extracted with 1 M sodium hydroxide. The pH of the aqueous phase was adjusted to 8-8.5, clarified by filtration and then further acidified with hydrochloric acid solution to pH 4. After standing a crystalline precipitate was formed and was filtered off, washed with water and dried to give the title compound (1.9 g).

reactant | 5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxylic acid | 6.5 mmol, 1.6 g | ClC1=C2C(=C(C(N(C2=CC=C1)C)=O)C(=O)O)O | C11H8ClNO4
reactant | triethylamine | 22.7 mmol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 8.4 mmol, 1.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(4-phenyl-phenyl)-N-methyl-5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide | 1.9 g | C1(=CC=CC=C1)C1=CC=C(C=C1)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)Cl)C)=O)C | C24H19ClN2O3
